US04493843
A solution of borane in tetrahydrofuran (134 ml, of strength 1M) in portions (13×10 ml) was added during 20 minutes to a stirred solution of methyl 3-(n-dodecanoyl)indole-6-carboxylate (19.9 g) in a mixture of dry tetrahydrofuran (330 ml) and dry ethyl acetate (330 ml), the temperature of the reaction being maintained at 50° C. by external warming. The mixture was stirred and refluxed for 1.5 hours and then methanol (330 ml) was added to the refluxing mixture during 10 minutes. The mixture was refluxed for a further 30 minutes and water (50 ml) was added. The mixture was distilled at atmospheric pressure to remove the organic solvents to give a yellow residue. The residue was triturated with water (50 ml) to give a solid, which was collected and washed with water (100 ml). The solid was recrystallised from methanol (100 ml) (with treatment with charcoal) and then from toluene to give methyl 3-(n-dodecyl)-indole-6-carboxylate (10 g), in the form of a white solid, m.p. 85°-89° C.

reactant | borane | B | BH3
reactant | methyl 3-(n-dodecanoyl)indole-6-carboxylate | 19.9 g | C(CCCCCCCCCCC)(=O)C1=CNC2=CC(=CC=C12)C(=O)OC | C22H31NO3
reactant | ethyl acetate | 330 ml | C(C)(=O)OCC | C4H8O2
reactant | methanol | 330 ml | CO | CH4O
solvent | tetrahydrofuran | 1M, 134 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 330 ml | O1CCCC1 | C4H8O
solvent | water | 50 ml | O | H2O
product | methyl 3-(n-dodecyl)-indole-6-carboxylate | 10 g | C(CCCCCCCCCCC)C1=CNC2=CC(=CC=C12)C(=O)OC | C22H33NO2
